US08754079B2
XXXII.3 4,4-difluorocyclohexanol
0.361 g meta-chloro-perbenzoic acid were added into a solution of 0.262 g 1-(4,4-difluoro-cyclohexyl)-ethanone in 5 ml chloroform. The reaction was stirred at rt for 2 hours when TLC indicated consumption of the 1-(4,4-difluoro-cyclohexyl)-ethanone. The solution was poured into saturated sodium hydrogencarbonate solution and extracted with chloroform (3×50 ml). The combined organic phases were passed through a phase separator concentrated in vacuo. The crude product was resuspended in methanol (5 ml) and 10% aq. potassium carbonate solution. (5 ml) and stirred at rt over a weekend. The solution was diluted with chloroform (25 ml) and sat. sodium hydrogencarbonate solution. The organic phases were separated and the aqueous phase was extracted with methylene chloride (3×25 ml). The combined organic phases were passed through a phase-separator, concentrated in vacuo. Purification was achieved by silica gel column chromatography (solvent: 100%→1:1 petroleum ether/diethylether).

reactant | meta-chloro-perbenzoic acid | 0.361 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 1-(4,4-difluoro-cyclohexyl)-ethanone | 0.262 g | FC1(CCC(CC1)C(C)=O)F | C8H12F2O
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 4,4-difluorocyclohexanol | FC1(CCC(CC1)O)F | C6H10F2O
